US07157447B2
N-(2-(Ethylamino)-4-fluorobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
The title compound can be prepared from intermediate 27, 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid and 2-(aminomethyl)-N-ethyl-5-fluorobenzenamine. 1HNMR 400 MHz (CDCl3) δ (ppm): 1.27 (3H, t, J=7.1 Hz, CH3), 1.63 (6H, s, 2×CH3), 3.10 (2H, q, J=7.1 Hz, CH2), 4.04 (4H, m, 2×CH2), 4.45 (2H, d, J=6.6 Hz, NCH2), 5.27 (2H, s, OCH2), 6.28 (1H, broad s, aromatic), 6.31 (1H, m, aromatic), 6.98 (1H, m, aromatic), 7.3–7.38 (3H, m, aromatics), 7.49 (2H, m, aromatics), 7.54 (1H, broad t, NH). HRMS (ESI+) calculated for C26H30FN4O4 [M+H+]: 481.2251. found: 481.2254.

reactant | 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)O | C17H18N2O5
reactant | 2-(aminomethyl)-N-ethyl-5-fluorobenzenamine | NCC1=C(C=C(C=C1)F)NCC | C9H13FN2
product | N-(2-(Ethylamino)-4-fluorobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | C(C)NC1=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=CC(=C1)F | C26H29FN4O4
